US07291619B2
1-Boc-4-(3-Chloro-2-dimethylaminomethyl-phenyl)-piperazine
Sodium borohydride (1.2 g, 31.4 mmol) was dissolved in THF (20 mL) and TFA (2.42 mL, 31.4 mmol) in THF (20 mL) was added dropwise at 0° C., and the reaction was stirred for about 30 minutes. 1-Boc-4-(3-Chloro-2-cyano-phenyl)-piperazine (2.0 g, 6.3 mmol) was dissolved in ThF (20 mL) and added dropwise to the solution at 0° C., and the reaction was stirred for about 24 hours. The reaction was carefully quenched with H2O and ethyl acetate (200 mL) was added. The mixture was washed with H2O (3×25 mL), brine (25 mL) and dried over MgSO4. The solvents were removed in vacuo and the crude reaction mixture was dissolved into acetonitrile (7 mL). Formalin (1.6 mL, 59.2 mmol) was added, followed by sodium cyanoborohydride (0.26 g, 7.4 mmol) at 0° C. The reaction was warmed to r.t. and stirred for about one hour. The reaction was quenched with H2O and ethyl acetate (100 mL) was added. The solution was washed with saturated NaHCO3 (2×10 mL) and dried over MgSO4. Purification by silica gel chromatography (1:1 hexanes/ethyl acetate) gave the title compound as a yellow oil (180 mg, 13%).

reactant | Sodium borohydride | 31.4 mmol, 1.2 g | [BH4-].[Na+]
reactant | TFA | 31.4 mmol, 2.42 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | 1-Boc-4-(3-Chloro-2-cyano-phenyl)-piperazine | 6.3 mmol, 2.0 g | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC=C1)Cl)C#N | C16H20ClN3O2
reactant | Formalin | 59.2 mmol, 1.6 mL | C=O | CH2O
reactant | sodium cyanoborohydride | 7.4 mmol, 0.26 g | C(#N)[BH3-].[Na+]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | acetonitrile | 7 mL | C(C)#N | C2H3N
product | 1-Boc-4-(3-Chloro-2-dimethylaminomethyl-phenyl)-piperazine | 180 mg, 13% | C(=O)(OC(C)(C)C)N1CCN(CC1)C1=C(C(=CC=C1)Cl)CN(C)C | C18H28ClN3O2
